US04528296
Following the procedure of Example 1, but substituting an equivalent amount of methyl 2-amino-isonicotinate and 2-acetylthiomethyl-3-phenyl-propionic acid respectively for methyl 2-amino-nicotinate and 2-acetylthiomethyl-3-phenyl-propionic acid, using pyridine as reaction solvent, maintaining the reaction mixture at 50°-60° C. for five hours and purifying by chromatography on silica gel column (eluent, petroleum ether/ether 7:3), methyl 2-(2-acetylthiomethyl-3-phenyl-propionamido)-isonicotinate is obtained as an oil which is transformed into the corresponding hydrochloride with an alcoholic solution of hydrogen chloride; m.p. 137°-139° C., from acetone/ether.

reactant | methyl 2-amino-isonicotinate | NC=1C=C(C(=O)OC)C=CN1 | C7H8N2O2
reactant | 2-acetylthiomethyl-3-phenyl-propionic acid | C(C)(=O)SCC(C(=O)O)CC1=CC=CC=C1 | C12H14O3S
reactant | methyl 2-amino-nicotinate | NC1=C(C(=O)OC)C=CC=N1 | C7H8N2O2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | methyl 2-(2-acetylthiomethyl-3-phenyl-propionamido)-isonicotinate | C(C)(=O)SCC(C(=O)NC=1C=C(C(=O)OC)C=CN1)CC1=CC=CC=C1 | C19H20N2O4S
